US06630019B2
In this method, the first reactant, 800 g of a 12% aqueous solution of aluminum sulfate was added to the reactor vessel, then the second reactant, an 18% aqueous solution of sodium carbonate, was metered into the vessel at a rate of 7 ml/minute until the pH reached 5.9. The reactants were mixed together for 20 minutes under agitation. Next, 54 grams of calcium pyrophosphate was added and the resulting slurry was mixed for 15 minutes with agitation and filtered and washed to a conductivity of about 2000 μmhos. The recovered wetcake was reslurried with 150 g of water and 200 g of a 1% FD&C Blue No. 1 aqueous solution to form a slurry of colored calcium phosphate colorant and this slurry was then mixed for approximately 1 hour.

reactant | aluminum sulfate | S(=O)(=O)([O-])[O-].[Al+3].S(=O)(=O)([O-])[O-].S(=O)(=O)([O-])[O-].[Al+3]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | calcium pyrophosphate | 54 grams | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Ca+2].[Ca+2]
product | calcium phosphate | P(=O)([O-])([O-])[O-].[Ca+2].P(=O)([O-])([O-])[O-].[Ca+2].[Ca+2] | InChI=1S/3Ca.2H3O4P/c;;;2*1-5(2,3)4/h;;;2*(H3,1,2,3,4)/q3*+2;;/p-6
